US06596772B1
3-[2-(2-Methyl-5-trifluoromethanesulfonylamino-indol-1-yl)-acetylamino]-benzoic acid (86).
Same procedure as Example 82 except (2-Methyl-5-trifluoromethanesulfonylamino-indol-1-yl)-acetic acid and 3-aminobenzoic ethyl ester was used. 1H-NMR (400 MHz, DMSO-d6) δ 12.93 (s, 1H, COOH), 11.44 (s, 1H, SNH), 10.62 (s, 1H, NHCO), 8.23 (t, J=2 Hz, 1H, ArH), 7.82 (dq, J=1, 8 Hz, 1H, ArH), 7.65 (dt, J=1, 8 Hz, 1H, ArH), 7.45 (t, J=8 Hz, 1H, ArH), 7.39 (d, J=8.6 Hz, 1H, H-7), 7.33 (d, J=2.3 Hz, 1H, H-4), 6.94 (dd, J=2.3, 8.6 Hz, 1H, H-6), 6.30 (s, 1H, H-3), 5.02 (s, 2H, CH2), 2.39 (s, 3H, CH3), MS m/z 454 (M−H).

reactant | (2-Methyl-5-trifluoromethanesulfonylamino-indol-1-yl)-acetic acid | CC=1N(C2=CC=C(C=C2C1)NS(=O)(=O)C(F)(F)F)CC(=O)O | C12H11F3N2O4S
reactant | 3-aminobenzoic ethyl ester | C(C)OC(C1=CC(=CC=C1)N)=O | C9H11NO2
product | 3-[2-(2-Methyl-5-trifluoromethanesulfonylamino-indol-1-yl)-acetylamino]-benzoic acid | CC=1N(C2=CC=C(C=C2C1)NS(=O)(=O)C(F)(F)F)CC(=O)NC=1C=C(C(=O)O)C=CC1 | C19H16F3N3O5S
